US06642389B2
In analogy to the procedure described in example 17 a], [rac]-2-ethoxy-3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester (example 108 b]) was reacted with 2-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-ethanol (prepared by conversion of the 4-chloro-benzaldehyde into 2-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-ethanol in analogy to the sequence described in examples 21 a] to 21 e]) in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-3-(4-{2-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-5,6,7,8-tetrahydro-naphthalen-1-yl)-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-3-(4-{2-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-5,6,7,8-tetrahydro-naphthalen-1-yl)-2-ethoxy-propionic acid as colorless oil.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=2CCCCC12)O)OCC)=O | C17H24O4
reactant | 2-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-ethanol | ClC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C12H12ClNO2
reactant | 4-chloro-benzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [rac]-3-(4-{2-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-5,6,7,8-tetrahydro-naphthalen-1-yl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=2CCCCC12)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Cl)OCC)=O | C29H34ClNO5
